US07855297B2
By the reaction and treatment in the same manner as in Example 132 using 5-benzyloxy-N-(4-methoxyphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.63 g) and 4-(chloromethyl)-2-methylthiazole (0.30 g) as starting materials, 5-benzyloxy-N-(4-methoxyphenyl)-N-[(2-methylthiazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.64 g) was obtained. By the reaction and treatment in the same manner as in Example 133 using this compound (0.50 g), 5-hydroxy-N-(4-methoxyphenyl)-N-[(2-methylthiazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.31 g) was obtained.

reactant | 5-benzyloxy-N-(4-methoxyphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.63 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC1=CC=C(C=C1)OC | C25H25NO3
reactant | 4-(chloromethyl)-2-methylthiazole | 0.30 g | ClCC=1N=C(SC1)C | C5H6ClNS
product | 5-benzyloxy-N-(4-methoxyphenyl)-N-[(2-methylthiazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.64 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1N=C(SC1)C)C1=CC=C(C=C1)OC | C30H30N2O3S
